US08871937B2
7-[(5-chloro-pyridin-2-ylamino)-pyridin-2-yl-methyl]-quinolin-8-ol
The title compound was prepared by method B presented for the compound of Example 1; 2-amino-5-chloro-pyridine, 2-pyridine-carboxaldehyde and 8-hydroxy-quinoline were used in the reaction; the reaction mixture was heated at 60° C. for 3 days. Greyish-white powder, product purified by column chromatography. C20H18ClN4O; (MW: 362.1); yield: 55 mg, (23.7%). m.p.: 160-162° C., HPLC (CH3CN/H2O 70:30 Phenomenex C18 282 nm): 5.69 min.

reactant | 2-amino-5-chloro-pyridine | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | 2-pyridine-carboxaldehyde | N1=C(C=CC=C1)C=O | C6H5NO
reactant | 8-hydroxy-quinoline | OC=1C=CC=C2C=CC=NC12 | C9H7NO
product | 7-[(5-chloro-pyridin-2-ylamino)-pyridin-2-yl-methyl]-quinolin-8-ol | ClC=1C=CC(=NC1)NC(C1=CC=C2C=CC=NC2=C1O)C1=NC=CC=C1 | C20H15ClN4O
